US06316467B1
A mixture of 4-hydroxy-N-methyl-4-phenyl-butyramide (4.50 g, 23.3 mmol), prepared in the previous step, and pyridinium chlorochromate (7.54 g, 35.0 mmol) in 200 ml of methylene chloride was stirred at room temperature for 2.5 hours. The reaction was poured onto 4 g of silica gel (230-400 mesh) and the material eluted with ethyl acetate-methylene chloride and then ethyl acetate. Isolation of the major component gave N-methyl-4-oxo-4-phenyl-butyramide (3.65 g, 82%) as an off-white solid, mp 80-82° C.

reactant | 4-hydroxy-N-methyl-4-phenyl-butyramide | 23.3 mmol, 4.50 g | OC(CCC(=O)NC)C1=CC=CC=C1 | C11H15NO2
reactant | pyridinium chlorochromate | 35.0 mmol, 7.54 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | N-methyl-4-oxo-4-phenyl-butyramide | 3.65 g, 82% | CNC(CCC(C1=CC=CC=C1)=O)=O | C11H13NO2
